US09376443B2
3-(6-Bromomethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
Prepared from 7-(5-methyl-2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine and 2,6-bis(bromomethyl)pyridine by the alkylation method described in Example 36; NMR δH (400 MHz, DMSO) 2.46 (3H, s), 4.64 (2H, s), 5.75 (2H, s), 6.50 (1H, d, J 3.5 Hz), 7.04 (1H, d, J 8.0 Hz), 7.31 (2H, s), 7.49 (1H, d, J 7.5 Hz), 7.80 (1H, t, J 7.5 Hz), 7:88 (1H, d, J 3.5 Hz). TLC (Hexane:EtOAc (1:1)) Rf=0.28**

reactant | 7-(5-methyl-2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | CC1=CC=C(O1)C=1C2=C(N=C(N1)N)N=NN2 | C9H8N6O
reactant | 2,6-bis(bromomethyl)pyridine | BrCC1=NC(=CC=C1)CBr | C7H7Br2N
solvent | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | 3-(6-Bromomethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | BrCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC(=CC2)C)N | C16H14BrN7O
